US08193198B2
Synthesis of 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenoxy]-1-oxoisobutyl}amino]propionic acid methyl ester (Compound No. 18)
3-(2-Bromo-2-methylpropionylamino)propionic acid methyl ester (224 mg) and 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-1H-pyrimidin-2,4-dione (250 mg) were dissolved in acetonitrile 5 ml. After addition of K2CO3 (204 mg), the reaction mixture was heated for 12 hours under reflux, cooled and diluted with ethyl acetate (50 mL). After washing with water (50 mL), thus obtained organic layer was dried with magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography to give the target compound (240 mg).

reactant | 3-(2-Bromo-2-methylpropionylamino)propionic acid methyl ester | 224 mg | COC(CCNC(C(C)(C)Br)=O)=O | C8H14BrNO3
reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-1H-pyrimidin-2,4-dione | 250 mg | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | K2CO3 | 204 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenoxy]-1-oxoisobutyl}amino]propionic acid methyl ester | 240 mg | COC(CCNC(C(C)(C)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O)=O | C20H20ClF4N3O6
